US08809382B2
Step 1: 6-Chloro-2-hex-1-enyl-1H-indole
To the cold suspension of Pentyl-triphenyl-phosphonium bromide in THF was added LiHMDS in THF and the mixture was stirred for 30 minutes. A solution of 6-Chloro-1H-indole-2-carbaldehyde in THF was added to the reaction mixture and stirred for 3 hours. The reaction mixture was treated with saturated ammonium chloride and ethyl acetate. The product was purified by column chromatography.

reactant | Pentyl-triphenyl-phosphonium bromide | [Br-].C(CCCC)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
reactant | LiHMDS | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 6-Chloro-1H-indole-2-carbaldehyde | ClC1=CC=C2C=C(NC2=C1)C=O | C9H6ClNO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | THF | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-2-hex-1-enyl-1H-indole | ClC1=CC=C2C=C(NC2=C1)C=CCCCC | C14H16ClN
